US08426432B2
2,4-Diamino-5-iodo-6-methylpyrimidine (250 mg) was allowed to react with 1,2,3-Trimethoxy-5-(1-methoxyprop-2-ynyl)benzene (473 mg) as per the general procedure to afford 2,4-Diamino-5-(3-methoxy-3-(3,4,5-trimethoxyphenyl)prop-1-ynyl)-6-methylpyrimidine as a yellow powder (335 mg, 93%): Rf=0.29 (9:1, CHCl3:MeOH); mp=127-129° C.; 1H NMR (DMSO-d6) δ 6.84 (s, 2H), 6.37 (s, 2H), 5.34 (s, 1H), 3.78 (s, 6H), 3.66 (s, 3H), 3.35 (s, 3H), 2.23 (s, 3H); 13C NMR (DMSO-d6) δ 167.6, 164.3, 161.1, 152.8, 137.2, 134.8, 104.6, 95.7, 87.5, 81.8, 73.1, 60.0, 55.8, 55.3, 22.4; HRFAB[M+Li]359.1701 (calculated C18H22N4O4Li: 359.1719). (R)-4-Isopropyl-3-(2-(3,4,5-trimethoxyphenyl)acetyl)oxazolidin-2-one. To a flame-dried 100 mL round-bottom flask was added 3,4,5-trimethoxyphenylacetic acid (2.10 g, 9.29 mmol). THF (25 mL) was added followed by Et3N (1.42 mL, 10.22 mmol). The solution was cooled to −78° C. Pivaloyl chloride (1.26 mL, 10.22 mmol) was added dropwise and the solution warmed to 0° C. and stirred for 1 h. In a separate flame-dried 50 mL round-bottom flask was added (R)-4-isopropyloxazolidin-2-one (1.0 g). THF (20 mL) was added and the solution cooled to −78° C. n-BuLi (6.83 mL, 9.29 mmol, 1.36 M) was added dropwise and the solution stirred at −78° C. for 15 min and then warmed to 25° C. where it was stirred for 15 min. The organolithium solution was transferred to the solution of the mixed anhydride via cannula at −78° C. The reaction was stirred at −78° C. for 15 min, warmed to 0° C., and stirred for 1 h. Water (10 mL) was added and the aqueous layer extracted with EtOAc (2×10 mL). The combined organics were washed with brine (10 mL), dried over anhydrous MgSO4, and concentrated under reduced pressure. The residue was purified by flash chromatography (SiO2, 30 g) using 25% EtOAc in hexanes as the eluent to afford trimethoxyphenyl)acetyl)oxazolidin-2-one as a colorless oil (2.30 g, 88%): Rf=0.28 (1:1, Hex:EtOAc); 1H NMR (CDCl3) δ 6.55 (s, 2H), 4.44-4.41 (m, 1H), 4.29-4.24 (m, 2H), 4.19 (dd, J) 9.0, 3.0 Hz, 1H), 4.12-4.07 (m, 1H), 3.82 (s, 6H), 3.80 (s, 3H), 2.36-2.30 (m, 1H), 0.87 (d, J) 6.8 Hz, 3H), 0.78 (d, J) 7.1 Hz, 3H); 13C NMR (CDCl3) δ 171.2, 154.1, 153.2, 129.4, 106.7, 63.4, 60.9, 58.6, 56.2, 41.6, 28.4, 18.0, 14.7, 14.3; HRFAB[M+Li]344.1686 (calculated C17H23NO6Li: 344.1686).

reactant | 2,4-Diamino-5-iodo-6-methylpyrimidine | 250 mg | NC1=NC(=C(C(=N1)N)I)C | C5H7IN4
reactant | 1,2,3-Trimethoxy-5-(1-methoxyprop-2-ynyl)benzene | 473 mg | COC1=C(C(=CC(=C1)C(C#C)OC)OC)OC | C13H16O4
product | 2,4-Diamino-5-(3-methoxy-3-(3,4,5-trimethoxyphenyl)prop-1-ynyl)-6-methylpyrimidine | 335 mg, 93% | NC1=NC(=C(C(=N1)N)C#CC(C1=CC(=C(C(=C1)OC)OC)OC)OC)C | C18H22N4O4
